### PR TITLE
To int to nat removal semantics: RISCV Merge [1/3]

### PR DESCRIPTION
**Pull request by salinhkuhn**
This is a rather big PR again but it contains the semantics already merged and additionally has rewrites of the semantics into purely bit vector domain statements without calls to toInt and toNat. This file should replace the current smenatics file when complete.

This PR is the first third of the whole undertaking.
For some theorems, we previously already committed their pure variant but left out the toNat version. In this case, we now add the toNat version under the original theorem name, move the pure version to a _bv statement, and prove equivalence of both.

### CODE REVIEW

File: SSA/Projects/RISCV64/Semantics2.lean [hunk 1]
```diff
@@ -0,0 +1,645 @@
...
+the Sail RiscV 64 modell in Lean.
+
+
+The instruction semantics suffixed by "bv" indicates that it is
+the purely bit vector defintion where we removed
+toInt/toNat calls.
+-/
+
+/-! ## Helper Bit Vector Lemmas  -/
+/- The lemmas bellow are helper lemmas used within proofs throughout the file -/
```
Comment (tobiasgrosser) [inline SSA/Projects/RISCV64/Semantics2.lean]: These all should probably go into `forLean.lean`.

Comment (tobiasgrosser) [inline SSA/Projects/RISCV64/Semantics2.lean]:
```suggestion
/- The lemmas below are helper lemmas used within proofs throughout the file. -/
```

Please do a spell-check and terminate your sentences with `.`.

File: SSA/Projects/RISCV64/Semantics2.lean [hunk 2]
```diff
@@ -0,0 +1,645 @@
...
+    BitVec.ofNat w' (x.toNat * y.toNat) = BitVec.ofInt w' (x.toInt * y.toInt) := by
+  rw [BitVec.ofNat_mul]
+  simp
+  rw [BitVec.ofInt_mul]
+  rw [BitVec.ofInt_toInt_eq_signExtend]
+  rw [BitVec.ofInt_toInt_eq_signExtend]
+  rw [BitVec.signExtend_eq_setWidth_of_le _ (by omega)]
+  rw [BitVec.signExtend_eq_setWidth_of_le _ (by omega)]
+
+
```
Comment (tobiasgrosser) [inline SSA/Projects/RISCV64/Semantics2.lean]:
```suggestion

```
No need for two empty lines in a row.

File: SSA/Projects/RISCV64/Semantics2.lean [hunk 3]
```diff
@@ -0,0 +1,645 @@
...
+@[simp] -- we tag the lemma as a simp lemma
+theorem extractLsb'_eq_setWidth {x : BitVec w} : x.extractLsb' 0 n = x.setWidth n := by
```
Comment (tobiasgrosser) [inline SSA/Projects/RISCV64/Semantics2.lean]:
```suggestion
@[simp]
theorem extractLsb'_eq_setWidth {x : BitVec w} : x.extractLsb' 0 n = x.setWidth n := by
```

File: SSA/Projects/RISCV64/Semantics2.lean [hunk 4]
```diff
@@ -0,0 +1,645 @@
...
+      simp only [Nat.reduceLeDiff, BitVec.toInt_signExtend_of_le]
+    simp only [this]
+    have : rs2_val.toInt = (rs2_val.signExtend 129).toInt := by
+      simp only [Nat.reduceLeDiff, BitVec.toInt_signExtend_of_le]
+    simp only [this]
+    rw [BitVec.ofInt_mul]
+    simp only [BitVec.ofInt_toInt, extractLsb'_eq_setWidth]
+    rw [extractLsb_setWidth_of_lt (hi := 127) (lo := 64) (v := 128) (x := BitVec.signExtend 129 rs1_val * BitVec.signExtend 129 rs2_val) (by omega)]
+    simp
+-- wait until accepted then add divison etc
```
Comment (tobiasgrosser) [inline SSA/Projects/RISCV64/Semantics2.lean]:
```suggestion

```

**Comment by tobiasgrosser** [comment]
Excellent. The overall bitvector level theorems look great, but I feel they could overall benefit from some polishing. Maybe @luisacicolini can help with a review here?

File: SSA/Projects/RISCV64/Semantics2.lean [hunk 5]
```diff
@@ -0,0 +1,642 @@
...
+import Mathlib.Order.Lattice
+import Mathlib.Data.Nat.Cast.Defs
+
+/-!
+  ## Dialect semantics bit-vectorization
+This file contains the `RV64` instruction semantics in a form that does
+not contain BitVec.toInt and BitVec.toNat. This file should replace
+the Semantics file in RISCV64 when complete.
+ToInt/ToNat calls hinder proof automation by bv_decide.
+To guarantee faithfullness to the semantics defined by the Sail-Lean RiscV64 model,
```
Comment (luisacicolini) [inline SSA/Projects/RISCV64/Semantics2.lean]:
```suggestion
faithfulness
```
typo

File: SSA/Projects/RISCV64/Semantics2.lean [hunk 6]
```diff
@@ -0,0 +1,642 @@
...
+toInt/toNat calls.
+-/
+
+/-! ## Helper Bit Vector Lemmas  -/
+/- The lemmas below are helper lemmas used within proofs throughout the file. -/
+
+theorem sshiftRight_eq_sshiftRight_extractLsb {w : Nat}
+    {lw : Nat} (hll : 2^lw = w) (hlw : lw > 0 )
+    (x y : BitVec w)(h : BitVec.toNat y < 2^lw ) :
+        x.sshiftRight y.toNat = x.sshiftRight (y.extractLsb (lw - 1) 0).toNat := by
```
Comment (luisacicolini) [inline SSA/Projects/RISCV64/Semantics2.lean]:
```suggestion
theorem sshiftRight_eq_sshiftRight_extractLsb {w : Nat}
    {lw : Nat} {x y : BitVec w} (hll : 2^lw = w) (hlw : lw > 0)
    (h : BitVec.toNat y < 2^lw) :
        x.sshiftRight y.toNat = x.sshiftRight (y.extractLsb (lw - 1) 0).toNat := by
```
small formatting suggestion: we try to follow lean's guidelines and style, and in particular: 
* avoid spurious spaces
* call the "arguments" implicitly when possible (using the curly braces, unless this breaks the statement) and having first the implicit ones and then the hypotheses

could you check that this is the case for the remaining theorems as well? :)

File: SSA/Projects/RISCV64/Semantics2.lean [hunk 7]
```diff
@@ -0,0 +1,642 @@
...
+  apply BitVec.eq_of_toNat_eq
+  simp
```
Comment (luisacicolini) [inline SSA/Projects/RISCV64/Semantics2.lean]:
```suggestion
  simp
```
For this we follow lean's strategy too: having `simp` in the middle of proofs could be problematic, in fact the theorem that the tactic considers are constantly changing, and if we use it like this it might be that in subsequent updates to lean we rely on this code will break because of changes to the `simp` tactic. Therefore, we need to be sure that we know _which_ theorems `simp` actually uses and replace `simp` with `simp only`. 
The only exception to this is when the tactic is at the _end_ of the theorem (terminal simp) or followed by `omega` only, in which case there is no need to use `simp only`.
To find the theorems that are used, you can type `simp?` and apply that suggestion. 
Could you replace all the non-terminal `simp` with `simp only`?

File: SSA/Projects/RISCV64/Semantics2.lean [hunk 8]
```diff
@@ -0,0 +1,642 @@
...
+  suffices y.toNat = (y.toNat % 2 ^ (lw - 1 + 1)) by
+    rw [← this ]
+  have : (lw - 1 + 1) = lw := by omega
+  rw [this, hll]
+  rw [Nat.mod_eq_of_lt]
```
Comment (luisacicolini) [inline SSA/Projects/RISCV64/Semantics2.lean]: is therre a reason why these rewrites are not grouped into a single `rw`?

File: SSA/Projects/RISCV64/Semantics2.lean [hunk 9]
```diff
@@ -0,0 +1,642 @@
...
+  rw [hll] at h
+  exact h
+
+theorem sshiftRight_eq_setWidth_extractLsb_signExtend {w : Nat} (n : Nat) (x : BitVec w) :
+    x.sshiftRight n =
+    ((x.signExtend (w + n)).extractLsb (w - 1 + n) n).setWidth w := by
+  ext i hi
+  simp [BitVec.getElem_sshiftRight]
+  simp [show i ≤ w - 1 by omega]
+  simp [BitVec.getLsbD_signExtend]
```
Comment (luisacicolini) [inline SSA/Projects/RISCV64/Semantics2.lean]:
```suggestion
  simp [BitVec.getElem_sshiftRight, show i ≤ w - 1 by omega, BitVec.getLsbD_signExtend]
```
if possible we should try to group things wihtin the same `simp` or `rw` (not always possible, so please do double check that this does not break the proof!) also, non-terminal simp

File: SSA/Projects/RISCV64/Semantics2.lean [hunk 10]
```diff
@@ -0,0 +1,642 @@
...
+
+theorem BitVec.ofInt_toInt_eq_signExtend {w w' : Nat} {x : BitVec w} : BitVec.ofInt w' x.toInt
+      = x.signExtend w' := by
+  apply BitVec.eq_of_toInt_eq
+  by_cases hw' : w' ≤ w
+  · simp
+    rw [BitVec.toInt_signExtend_eq_toInt_bmod_of_le _ hw']
+  · simp only [not_le] at hw'
+    rw [BitVec.toInt_ofInt]
+    rw [BitVec.toInt_signExtend_of_le (by omega)]
```
Comment (luisacicolini) [inline SSA/Projects/RISCV64/Semantics2.lean]: can we group them?

**Review by luisacicolini — COMMENTED** [review]
Thank you @salinhkuhn for the PR :)
I left a few style comments about the use of `simp only`, implicit arguments and grouping the application of rewrite rules/simp lemmas so that they're consistent with lean's style, could you please go over the bitvec proofs and make sure that they are consistent?

**Comment by tobiasgrosser** [comment]
@salinhkuhn, as commented earlier please move everything about `BitVec` into the file `SSA/Projects/InstCombine/ForLean.lean`.

**Comment by tobiasgrosser** [comment]
@salinhkuhn, I am also surprised you have redundant statements in `Semantics.lean` and `Semantics2.lean`. Is there a specific reason you decided to introduce redundancy here. I would have expected that this PR just adds additional `_bv` definitions plus proofs of equivalence into the file `Semantics.lean`. This would make this PR smaller and easier to review.

**Comment by salinhkuhn** [comment]
> @salinhkuhn, I am also surprised you have redundant statements in `Semantics.lean` and `Semantics2.lean`. Is there a specific reason you decided to introduce redundancy here. I would have expected that this PR just adds additional `_bv` definitions plus proofs of equivalence into the file `Semantics.lean`. This would make this PR smaller and easier to review.

My intention was for this file to fully replace the current Semantics.lean file so that only one semantics file remains. However, I can adjust the PR if it's preferred to keep both files.

**Comment by tobiasgrosser** [comment]
> > @salinhkuhn, I am also surprised you have redundant statements in `Semantics.lean` and `Semantics2.lean`. Is there a specific reason you decided to introduce redundancy here. I would have expected that this PR just adds additional `_bv` definitions plus proofs of equivalence into the file `Semantics.lean`. This would make this PR smaller and easier to review.
> 
> My intention was for this file to fully replace the current Semantics.lean file so that only one semantics file remains. However, I can adjust the PR if it's preferred to keep both files.

If this file should replace the current file, would it then make sense to do this in-place (by updating `Semantics.lean` or by just copying this file over `Semantics.lean`). Adding a separate file and then deleting the old one prevents git's history tracking support from working well. Also, the diff between the current definitions and the new ones is lost. So yes, please just keep updating `Semantics.lean`.

File: SSA/Projects/RISCV64/Semantics.lean [hunk 11]
```diff
@@ -89,171 +207,415 @@ def RTYPE_pure64_RISCV_XOR (rs2_val : BitVec 64) (rs1_val : BitVec 64) : BitVec
...
+    simp only [this]
+    rw [BitVec.ofInt_mul]
+    simp only [BitVec.ofInt_toInt, extractLsb'_eq_setWidth]
+    rw [extractLsb_setWidth_of_lt (hi := 127) (lo := 64) (v := 128) (x := BitVec.signExtend 129 rs1_val * BitVec.signExtend 129 rs2_val) (by omega)]
+    simp
+
+
 -- wip: need to remove toInts and toNats
 def DIVW_pure64_signed (rs2_val : BitVec 64) (rs1_val : BitVec 64) : BitVec 64 :=
-  BitVec.signExtend 64
```
Comment (tobiasgrosser) [inline SSA/Projects/RISCV64/Semantics.lean:171]: Anything from here and below seems to be an unintentional whitespace change that should be removed to reduce the diff.

File: SSA/Projects/InstCombine/ForLean.lean [hunk 12]
```diff
@@ -454,15 +454,13 @@ theorem ofInt_neg_one : BitVec.ofInt w (-1) = -1#w := by
   by_cases h : w = 0
   · subst h
     simp
-  ·
-    simp only [Int.reduceNeg, ne_eq, h, not_false_eq_true, Nat.one_mod_two_pow_eq,
+  · simp only [Int.reduceNeg, ne_eq, h, not_false_eq_true, Nat.one_mod_two_pow_eq,
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]: This change seems to be unrelated to the topic of this specific PR. I would remove it and submit as a separate cleanup PR.

File: SSA/Projects/InstCombine/ForLean.lean [hunk 13]
```diff
@@ -454,15 +454,13 @@ theorem ofInt_neg_one : BitVec.ofInt w (-1) = -1#w := by
...
     Nat.self_sub_mod]
     have h' := @Int.add_emod_right (-1) (2^w)
     rw [← h', ← Int.tmod_eq_emod_of_nonneg (by omega), Int.tmod_eq_of_lt (by omega) (by omega),
       Int.add_comm]
     norm_cast
-    simp only [Nat.cast_pow, Nat.cast_ofNat, Int.reduceNeg]
-    simp only [Int.reduceNegSucc, Int.reduceNeg]
+    simp only [Nat.cast_pow, Nat.cast_ofNat, Int.reduceNeg, Int.reduceNegSucc, Int.reduceNeg]
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]: This change seems to be unrelated to the topic of this specific PR. I would remove it and together with the previous change as a separate cleanup PR.

File: SSA/Projects/InstCombine/ForLean.lean [hunk 14]
```diff
@@ -484,6 +482,83 @@ theorem sdiv_allOnes {w : ℕ} {x : BitVec w} :
...
+  simp only [BitVec.extractLsb]
+  ext k
+  simp only [BitVec.getElem_extractLsb', BitVec.getLsbD_setWidth, Bool.and_eq_right_iff_imp,
+    decide_eq_true_eq]
+  omega
+
+theorem setWidth_signExtend_eq_self {w w' : Nat} {x : BitVec w} (h : w ≤ w') : (x.signExtend w').setWidth w = x := by
+  ext i hi
+  simp  [hi, BitVec.getLsbD_signExtend]
+  omega
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean:555]: Thank you for these bitvec lemmas.

File: SSA/Projects/RISCV64/Semantics.lean [hunk 15]
```diff
@@ -25,22 +32,86 @@ def UTYPE_pure64_AUIPC (imm : BitVec 20) (pc : BitVec 64) : BitVec 64 :=
   BitVec.add (BitVec.signExtend 64 (BitVec.append imm (0x000 : BitVec 12))) pc
 
 def SHIFTIWOP_pure64_RISCV_SLLIW (shamt : BitVec 5) (rs1_val : BitVec 64) : BitVec 64 :=
-  BitVec.signExtend 64 ((BitVec.extractLsb' 0 32 rs1_val) <<< shamt)
+    BitVec.signExtend 64 (BitVec.shiftLeft (BitVec.extractLsb' 0 32 rs1_val) (shamt).toNat)
+
+def SHIFTIWOP_pure64_RISCV_SLLIW_bv (shamt : BitVec 5) (rs1_val : BitVec 64) : BitVec 64 :=
+    BitVec.signExtend 64 ((BitVec.extractLsb' 0 32 rs1_val)  <<< shamt)
```
Comment (tobiasgrosser) [inline SSA/Projects/RISCV64/Semantics.lean]: Your new definitions use an indentation of four whitespace vs. two in the original code. Lean uses two whitespace, hence I would suggest to stick to two whitespace as well (throughout the file).

File: SSA/Projects/RISCV64/Semantics.lean [hunk 16]
```diff
@@ -25,22 +32,86 @@ def UTYPE_pure64_AUIPC (imm : BitVec 20) (pc : BitVec 64) : BitVec 64 :=
...
+  by
+  unfold SHIFTIWOP_pure64_RISCV_SLLIW SHIFTIWOP_pure64_RISCV_SLLIW_bv
+  rfl
 
 def SHIFTIWOP_pure64_RISCV_SRLIW (shamt : BitVec 5) (rs1_val : BitVec 64) : BitVec 64 :=
-  BitVec.signExtend 64 ((BitVec.extractLsb' 0 32 rs1_val) >>> shamt)
+    BitVec.signExtend 64 (BitVec.ushiftRight (BitVec.extractLsb' 0 32 rs1_val) (shamt).toNat)
+
+def SHIFTIWOP_pure64_RISCV_SRLIW_bv (shamt : BitVec 5) (rs1_val : BitVec 64) : BitVec 64 :=
+    BitVec.signExtend 64 ((BitVec.extractLsb' 0 32 rs1_val) >>> shamt)
```
Comment (tobiasgrosser) [inline SSA/Projects/RISCV64/Semantics.lean]: These definitions are interesting. It seems you are **introducing** the `toNat` version, as you seemingly already had the pure version. Can you update the PR message to explain what you are doing here, e.g., "For some theorems, we previously already committed their pure variant but left out the `toNat` version. In this case, we now add the `toNat` version under the original theorem name. move the pure version to a `_bv` statement, and prove equivalence of both.

**Review by tobiasgrosser — COMMENTED** [review]
@salinhkuhn, this already looks amazing. There are a couple of comments that apply throughout the file (check if they apply anywhere else). After addressing those, there are likely only minor changes remaining (or none at all). Thank you for the fast turnaround.

File: SSA/Projects/InstCombine/ForLean.lean (hunk 12 above)
Comment (salinhkuhn) [reply SSA/Projects/InstCombine/ForLean.lean]: I fixed a syntax indentation mistake, so you want me to make a separate pr for this ?  I'm a bit confused

File: SSA/Projects/RISCV64/Semantics.lean (hunk 15 above)
Comment (salinhkuhn) [reply SSA/Projects/RISCV64/Semantics.lean]: done

File: SSA/Projects/InstCombine/ForLean.lean (hunk 13 above)
Comment (salinhkuhn) [reply SSA/Projects/InstCombine/ForLean.lean]: okay, yes I think I'm just confused about what I should have done here and what not . I did this change thanks to Luisa feedback, she advised me to merge to simps here if possible. I thought it's a good input and did it. I didn't change the logic of the proof or anything.

File: SSA/Projects/RISCV64/Semantics.lean (hunk 16 above)
Comment (salinhkuhn) [reply SSA/Projects/RISCV64/Semantics.lean]: thank you, yes that makes it clear.

File: SSA/Projects/InstCombine/ForLean.lean (hunk 12 above)
Comment (tobiasgrosser) [reply SSA/Projects/InstCombine/ForLean.lean]: Right, you got two conflicting messages there.

1) this is a valuable cleanup

2) it is generally preferable to keep PRs focused on a single objective

The smaller a PR and the clearer it is focused on the objective in the commit message, the easier it is to review. In particular, when I review a PR, I ask at each line the question "why is this needed to achieve the goal in the commit message". In this particular instance it is relatively clear that this is an unrelated cleanup, so it is not too hindersome. However, it is not always obvious that something is unrelated and in some cases a bug may be introduced by something unrelated. You saw earlier how `git bisect` help to find bugs. It works a lot better if patches are focused and can in certain cases then help to identify if a bug was introduced in the main change of. a patch or in an unrelated refatoring. However, this only works if the unrelated refactoring is submitted in an independent PR.

It is a good habit to check if changes are unrelated and pull such changes out into their own PR. The change above is obviously beneficial. If you pull it out into a new PR, you get a thumbs-up almost immediately, and this change can be applied immediately. When I prepare a PR, I would typically try to commit such obvious unrelated changes independently (often committing before a review has happened and relying on people reviewing the already committed changes). The PRs that I then submit for review are then as small as possible to focus on the attention of the reviewers, saving everyone time.

Here a recent example of such a change: https://github.com/opencompl/lean-mlir/pull/1221. I also pulled this change out for you https://github.com/opencompl/lean-mlir/pull/1222, to show how I would do it and acknowledging that these early PR reviews are already quite draining: https://github.com/opencompl/lean-mlir/pull/1222.

File: SSA/Projects/RISCV64/Semantics.lean [hunk 17]
```diff
@@ -25,23 +32,87 @@ def UTYPE_pure64_AUIPC (imm : BitVec 20) (pc : BitVec 64) : BitVec 64 :=
...
+  BitVec.signExtend 64 (BitVec.shiftLeft (BitVec.extractLsb' 0 32 rs1_val) (shamt).toNat)
+
+def SHIFTIWOP_pure64_RISCV_SLLIW_bv (shamt : BitVec 5) (rs1_val : BitVec 64) : BitVec 64 :=
+  BitVec.signExtend 64 ((BitVec.extractLsb' 0 32 rs1_val)  <<< shamt)
+
+theorem SHIFTIWOP_pure64_RISCV_SLLIW_eq_SHIFTIWOP_pure64_RISCV_SLLIW_bv (shamt : BitVec 5) (rs1_val : BitVec 64) :
+  SHIFTIWOP_pure64_RISCV_SLLIW shamt rs1_val = SHIFTIWOP_pure64_RISCV_SLLIW_bv shamt rs1_val :=
+  by
+  unfold SHIFTIWOP_pure64_RISCV_SLLIW SHIFTIWOP_pure64_RISCV_SLLIW_bv
+  rfl
```
Comment (tobiasgrosser) [inline SSA/Projects/RISCV64/Semantics.lean]:
```suggestion
theorem SHIFTIWOP_pure64_RISCV_SLLIW_eq_SHIFTIWOP_pure64_RISCV_SLLIW_bv (shamt : BitVec 5) (rs1_val : BitVec 64) :
    SHIFTIWOP_pure64_RISCV_SLLIW shamt rs1_val = SHIFTIWOP_pure64_RISCV_SLLIW_bv shamt rs1_val := by
  unfold SHIFTIWOP_pure64_RISCV_SLLIW SHIFTIWOP_pure64_RISCV_SLLIW_bv
  rfl
```

- theorem statement lines are typically indented by four spaces
- `by` typically follows right after the `:=`
Similarly, below.

File: SSA/Projects/InstCombine/ForLean.lean [hunk 18]
```diff
@@ -477,6 +477,83 @@ theorem sdiv_allOnes {w : ℕ} {x : BitVec w} :
...
+  have : (lw - 1 + 1) = lw := by omega
+  rw [this, hll, Nat.mod_eq_of_lt]
+  rw [hll] at h
+  exact h
+
+theorem sshiftRight_eq_setWidth_extractLsb_signExtend {w : Nat} {n : Nat} (x : BitVec w) :
+    x.sshiftRight n =
+    ((x.signExtend (w + n)).extractLsb (w - 1 + n) n).setWidth w := by
+  ext i hi
+  simp [BitVec.getElem_sshiftRight, show i ≤ w - 1 by omega, BitVec.getLsbD_signExtend]
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]: Non-terminal simp.

File: SSA/Projects/InstCombine/ForLean.lean [hunk 19]
```diff
@@ -477,6 +477,83 @@ theorem sdiv_allOnes {w : ℕ} {x : BitVec w} :
...
+    have : 2^w < 2^w' := by apply Nat.pow_lt_pow_of_lt (by simp) (by assumption)
+    have : - 2^w' < - 2^w := by
+      apply Int.neg_lt_neg
+      norm_cast
+    rw [Int.bmod_eq_of_le_mul_two] <;> push_cast <;> omega
+
+theorem toInt_toInt_ofInt_eq_toNat_toNat_ofNa {w w' : Nat } {x y : BitVec w} (h : w' ≤ w):
+    BitVec.ofNat w' (x.toNat * y.toNat) = BitVec.ofInt w' (x.toInt * y.toInt) := by
+  rw [BitVec.ofNat_mul]
+  simp
```
Comment (tobiasgrosser) [inline SSA/Projects/InstCombine/ForLean.lean]: Non-terminal simp.

File: SSA/Projects/RISCV64/Semantics.lean [hunk 20]
```diff
@@ -25,23 +32,87 @@ def UTYPE_pure64_AUIPC (imm : BitVec 20) (pc : BitVec 64) : BitVec 64 :=
...
+
+def  SHIFTIOP_pure64_RISCV_SLLI_bv (shamt : BitVec 6) (rs1_val : BitVec 64) : BitVec 64 :=
   rs1_val <<< shamt
 
+theorem SHIFTIOP_pure64_RISCV_SLLI_eq_SHIFTIOP_pure64_RISCV_SLLI_bv :
+  SHIFTIOP_pure64_RISCV_SLLI shamt rs1_val = SHIFTIOP_pure64_RISCV_SLLI_bv shamt rs1_val := by
+  unfold SHIFTIOP_pure64_RISCV_SLLI SHIFTIOP_pure64_RISCV_SLLI_bv
+  simp only [BitVec.shiftLeft_eq, BitVec.shiftLeft_eq']
+
+
```
Comment (tobiasgrosser) [inline SSA/Projects/RISCV64/Semantics.lean]:
```suggestion

```

File: SSA/Projects/RISCV64/Semantics.lean [hunk 21]
```diff
@@ -53,21 +124,68 @@ def RTYPEW_pure64_RISCV_SUBW (rs2_val : BitVec 64) (rs1_val : BitVec 64) : BitVe
...
   BitVec.signExtend 64 (rs1_val32 >>> shamt)
 
-def RTYPEW_pure64_RISCV_SRAW (rs2_val : BitVec 64) (rs1_val : BitVec 64) : BitVec 64 :=
+theorem RTYPEW_pure64_RISCV_SLLW_eq_RTYPEW_pure64_RISCV_SRLW_bv
+  (rs2_val : BitVec 64) (rs1_val : BitVec 64) :
+  RTYPEW_pure64_RISCV_SRLW rs2_val rs1_val
+  = RTYPEW_pure64_RISCV_SRLW_bv rs2_val rs1_val := by
+  unfold RTYPEW_pure64_RISCV_SRLW RTYPEW_pure64_RISCV_SRLW_bv
+  simp only [extractLsb'_eq_setWidth, Nat.reduceLeDiff, BitVec.setWidth_setWidth_of_le,
+    BitVec.toNat_setWidth, Nat.reducePow, BitVec.ushiftRight_eq, BitVec.ushiftRight_eq']
```
Comment (tobiasgrosser) [inline SSA/Projects/RISCV64/Semantics.lean]: A terminal simp does not need to be `simp only`. Drop the `only` and see if you can drop some of the arguments to this `simp` call.

File: SSA/Projects/RISCV64/Semantics.lean [hunk 22]
```diff
@@ -89,83 +207,328 @@ def RTYPE_pure64_RISCV_XOR (rs2_val : BitVec 64) (rs1_val : BitVec 64) : BitVec
...
+  MULW_pure64 rs2_val rs1_val = MULW_pure64_bv rs2_val rs1_val :=
+  by
+  unfold MULW_pure64 MULW_pure64_bv
+  rw [extractLsb'_ofInt_eq_ofInt (h:= by simp), BitVec.extractLsb]
+  simp only [Nat.sub_zero, Nat.reduceAdd]
+  rw [extractLsb'_ofInt_eq_ofInt (h:= by simp)]
+  congr
+  apply BitVec.eq_of_toInt_eq
+  simp only [BitVec.toInt_extractLsb, Nat.shiftRight_zero, Nat.sub_zero, Nat.reduceAdd,
+    Nat.reducePow, BitVec.toInt_ofInt, Int.mul_bmod_bmod, Int.bmod_mul_bmod, BitVec.toInt_mul]
```
Comment (tobiasgrosser) [inline SSA/Projects/RISCV64/Semantics.lean]: Drop the `only` at the end of the proof.

File: SSA/Projects/RISCV64/Semantics.lean [hunk 23]
```diff
@@ -89,83 +207,328 @@ def RTYPE_pure64_RISCV_XOR (rs2_val : BitVec 64) (rs1_val : BitVec 64) : BitVec
...
+    BitVec.extractLsb'_toNat, BitVec.toNat_ofInt, Nat.reducePow, Nat.cast_ofNat,
+    Nat.shiftRight_zero, Nat.reduceDvd, Nat.mod_mod_of_dvd, BitVec.mul_eq, BitVec.toNat_mul]
+  congr
+  norm_cast
+  rw [Int.toNat_natCast, Nat.mod_eq_of_lt]
+  ac_rfl
+  have aa := BitVec.isLt rs1_val
+  have bb := BitVec.isLt rs2_val
+  have := @Nat.mul_lt_mul'' _ _ _ _ aa bb
+  simp only [Nat.reducePow, Nat.reduceMul] at this
```
Comment (tobiasgrosser) [inline SSA/Projects/RISCV64/Semantics.lean]: Right before omega as the second-last tactic in a proof, you can (and should) also drop the `only`.

**Review by tobiasgrosser — APPROVED** [review]
Excellent. I left a couple of comments that are essential for code health. After these are addressed, I feel we can already merge this.

The proofs can likely be polished further, which would be useful but maybe is not on the critical path. If you feel like it, ask @luisacicolini for another proof-quality review, though.

Please merge yourself after you addressed the comment remaining comments and are happy with the overall patch.

File: SSA/Projects/InstCombine/ForLean.lean (hunk 12 above)
Comment (salinhkuhn) [reply SSA/Projects/InstCombine/ForLean.lean]: Okay thx for explaining, I will do that from now on.

**Comment by salinhkuhn** [comment]
> Excellent. I left a couple of comments that are essential for code health. After these are addressed, I feel we can already merge this.
> 
> The proofs can likely be polished further, which would be useful but maybe is not on the critical path. If you feel like it, ask @luisacicolini for another proof-quality review, though.
> 
> Please merge yourself after you addressed the comment remaining comments and are happy with the overall patch.

Yes, I will keep proof polishing on my to do list.
